US06569877B2
5-[4-(6-Methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione hydrochloride
A mixture of 5-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (10.6 g) and 4N hydrochloric acid in 1,4-dioxane (100 ml) was stirred at room temperature for 1 hour. The reaction mixture was concentrated, and to the residue was added ethyl acetate to form a precipitate. The precipitate was collected by filtration and washed with ethyl acetate to afford the title compound (11.0 g).

reactant | 5-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 10.6 g | COC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C20H19N3O4S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-[4-(6-Methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione hydrochloride | 11.0 g | Cl.COC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | InChI=1S/C20H19N3O4S.ClH/c1-23-16-10-14(26-2)7-8-15(16)21-18(23)11-27-13-5-3-12(4-6-13)9-17-19(24)22-20(25)28-17;/h3-8,10,17H,9,11H2,1-2H3,(H,22,24,25);1H
